US06218365B1
Fmoc—p—Me—D—Phe—OH (5 g) was dissolved in dichloromethane/methanol 9/1 v/v (50 ml). 2-(1H-benzotriazol-1-yl 1,1,3,3-tetramethyluronium tetrafluoroborate (4.4 g) was added and the solution adjusted to pH 8 by addition of triethylamine. The reaction mixture was stirred for 16 hours at room temperature. The mixture was washed successively with cold 1N hydrochloric acid solution, water, 5% sodium hydrogencarbonate, and water and dried over sodium sulphate. The filtrate was evaporated yielding 5.6 g of Fmoc—p—Me—D—Phe—OMe as an oil.

reactant | Fmoc—p—Me—D—Phe—OH | 5 g | N([C@H](CC1=CC=C(C=C1)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C25H23NO4
reactant | 1H-benzotriazol-1-yl 1,1,3,3-tetramethyluronium tetrafluoroborate | 4.4 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | diethyl ether methanol | C(C)OCC.CO
product | Fmoc—p—Me—D—Phe—OMe | 5.6 g | N([C@H](CC1=CC=C(C=C1)C)C(=O)OC)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H25NO4
